US08541588B2
4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-3-cyano-N-1,3-thiazol-4-ylbenzenesulfonamide
tert-butyl ({4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-3-cyanophenyl}sulfonyl)1,3-thiazol-4-ylcarbamate (Preparation 679, 200 mg, 0.326 mmol) was stirred in 4M hydrogen chloride solution in 1,4-dioxan (10 ml) at room temperature for 2 hours. The reaction mixture was concentrated in vacuo and the residue was partitioned between methyl-t-butyl ether (80 ml) and water (40 ml). The aqueous layer was neutralized to pH=7 by adding sodium hydrogen carbonate and was then concentrated in vacuo. The crude product was purified by column chromatography on silica gel using dichloromethane:methanol:0.880 aqueous ammonia, 90:10:1 to 70:30:3. This gave a buff powder (65 mg) which was triturated with methyl tert-butyl ether to give the title compound as a buff powder, 55 mg.

reactant | tert-butyl ({4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-3-cyanophenyl}sulfonyl)1,3-thiazol-4-ylcarbamate | 0.326 mmol, 200 mg | N1CC(C1)N1N=CC=C1C1=C(OC2=C(C=C(C=C2)S(=O)(=O)N(C(OC(C)(C)C)=O)C=2N=CSC2)C#N)C=CC(=C1)Cl | C27H25ClN6O5S2
solvent | hydrogen chloride | 4M | Cl | ClH
solvent | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-3-cyano-N-1,3-thiazol-4-ylbenzenesulfonamide | 65 mg | N1CC(C1)N1N=CC=C1C1=C(OC2=C(C=C(C=C2)S(=O)(=O)NC=2N=CSC2)C#N)C=CC(=C1)Cl | C22H17ClN6O3S2
